2148-08-29 10:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient given 2LNS of fluid for low CVPs.
   Heparin drip discontinued due to preliminarily negative CTA from [**Hospital **]
   Medical.
   Levophed is being weaned slowly.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-8-29**] 06:00 AM
   Vancomycin - [**2148-8-29**] 08:43 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2148-8-29**] 07:22 AM
   Heparin Sodium (Prophylaxis) - [**2148-8-29**] 07:22 AM
   Other medications:
   Heparin SQ
   Albuterol
   Atrovent
   Zosyn
   Mucomyst
   Colace
   Vancomycin
   Ferrous sulfate
   Lansoprazole
   Levophed drip
   Fentanyl/versed drip
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-8-29**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 78 (74 - 96) bpm
   BP: 105/57(69) {86/50(58) - 121/67(79)} mmHg
   RR: 20 (17 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 286 (0 - 294)mmHg
   Total In:
                                                                      7 mL
                                                                  2,799 mL
   PO:
   TF:
   IVF:
                                                                      7 mL
                                                                  2,679 mL
   Blood products:
   Total out:
                                                                    325 mL
                                                                    730 mL
   Urine:
                                                                    250 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -318 mL
                                                                  2,069 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 12 cmH2O
   Plateau: 10 cmH2O
   SpO2: 100%
   ABG: 7.46/44/82.[**Numeric Identifier 253**]/28/6
   Ve: 8.6 L/min
   PaO2 / FiO2: 138
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   266 K/uL
   10.6 g/dL
   102 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.6 mEq/L
   8 mg/dL
   99 mEq/L
   136 mEq/L
   32.1 %
   15.9 K/uL
        [image002.jpg]
                             [**2148-8-29**]  12:08 AM
                             [**2148-8-29**]  01:06 AM
   WBC
   15.9
   Hct
   32.1
   Plt
   266
   Cr
   1.2
   TCO2
   32
   Glucose
   102
   Other labs: PT / PTT / INR:14.6/37.1/1.3, ALT / AST:17/18, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:138/, Differential-Neuts:74.7 %,
   Lymph:7.8 %, Mono:3.9 %, Eos:13.5 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:180 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.2
   mg/dL
   Sputum, blood, urine cultures pending.
   CXR: LLL collapse and effusion.
   Assessment and Plan
   Mr. [**Name14 (STitle) 837**] is an 87 yo male with HTN, CRI, TBM admitted with
   respiratory failure secondary to migrated tracheal stent and pneumonia.
   .
   1.  Respiratory failure.  Patient is hypoxic with pao2 of 85 in spite
   of FIO2 of 60% and PEEP of 5.  Hypoxic respiratory failure is
   multifactorial secondary to pneumonia, TBM, and possible PE.  On
   Vanco/Levo/Zosyn at OSH for pneumonia, now day ?5.  Will continue with
   Vanco/Zosyn for hospital acquired pneumonia (patient was a resident at
   rehab).  Sputum cultures at OSH positive for MRSA only. Stent migration
   with distal airway collapse also likely contributing to respiratory
   failure.  Awaiting stent removal and Y-stent placement in OR tomorrow
   morning.  Patient also found to have elevated PA pressure on echo,
   though unchanged from 2 weeks prior, concerning for PE.  Patient
   underwent CTA this evening, but results are pending.   Will hold on
   heparin drip given that he is awaiting surgery in AM and will resume
   heparin if CTA is positive.
   - f/u CTA from OSH
   - continue vanco/zosyn for PNA
   - NPO after midnight for stent removal and placement
   - f/u sputum cultures, blood cultures
   - trend fever curve, wbc
   .
   2.  Hypotension.  Patient hypotensive with leukocytosis and pneumonia
   concerning for sepsis.  However, appears dehydrated on exam and CVP is
   low ([**4-16**]).  Will bolus patient to raise CVP to [**7-23**] and aim to titrate
   down levophed.
   - IVF boluses to maintain CVP > 8
   - wean levophed
   - hold home antihypertensive
   - continue vanco/zosyn for pneumonia
   - f/u blood, sputum cultures
   - follow UOP
   .
   3.  Volume status.  Patient appears dehydrated and has low CVP.
   - IVF bolus PRN to maintain CVP >8
   .
   4.  Eosinphilia.  On vanco/zosyn/levaquin at OSH.  No evidence of drug
   rash at present.  No clear etiology of eosinphilia at present.
   - monitor CBC with Diff
   - clarify with [**Hospital1 **] if patient previously had eosinphilia or drug rash
   .
   5.  CRI.  Creatinine is at baseline of 1 - 1.2.
   .
   Ppx: Heparin SQ, PPI, bowel regimen.
   NPO until surgery, then will resume tube feeds.
   Contact Info: [**Name2 (NI) 838**] - Health Care Proxy [**Telephone/Fax (1) 839**], cell
   [**Telephone/Fax (1) 840**].  Son ([**Known firstname **]) [**Telephone/Fax (1) 841**] (home).
   FULL CODE, confirmed with HCP, [**Name (NI) 838**].
   .
   .
   .
   [**First Name4 (NamePattern1) 842**] [**Last Name (NamePattern1) 492**]
   [**Pager number 843**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2148-8-28**] 11:40 PM
   20 Gauge - [**2148-8-29**] 12:05 AM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2148-08-30 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Plan for IR-evaluation of stent today. Tube feeds held after midnight
   - Given 1 bolus of 500ml NS to help bring down pressors. Levophed
   weaned down to 0.03mcg/kg/min
   - Left subclavian line attempted, Left IJ line placed. No evidence of
   pneumothorax
   - Patient with serum eosinophilia, urine with rare positive
   eosinophilia
   - OSH CTA requested
 BLOOD CULTURED - At [**2148-8-29**] 08:23 AM
 SPUTUM CULTURE - At [**2148-8-29**] 08:23 AM
   Urine eos: returned as rare postitive urine eos.
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2148-8-29**] 08:43 AM
   Piperacillin/Tazobactam (Zosyn) - [**2148-8-29**] 10:21 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-8-29**] 03:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-8-30**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 74 (71 - 92) bpm
   BP: 105/57(68) {90/42(55) - 120/67(80)} mmHg
   RR: 15 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 10 (-2 - 294)mmHg
   Total In:
                                                                  5,311 mL
                                                                    158 mL
   PO:
   TF:
                                                                    190 mL
                                                                     10 mL
   IVF:
                                                                  4,721 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                  1,765 mL
                                                                    870 mL
   Urine:
                                                                  1,765 mL
                                                                    570 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  3,546 mL
                                                                   -712 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 506) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 78
   PIP: 12 cmH2O
   Plateau: 10 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 9.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   162 K/uL
   9.0 g/dL
   95 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.9 mEq/L
   8 mg/dL
   104 mEq/L
   137 mEq/L
   26.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2148-8-29**]  12:08 AM
                             [**2148-8-29**]  01:06 AM
                             [**2148-8-30**]  02:59 AM
   WBC
   15.9
   9.3
   Hct
   32.1
   26.8
   Plt
   266
   162
   Cr
   1.2
   1.2
   TCO2
   32
   Glucose
   102
   95
   Other labs: PT / PTT / INR:14.7/52.4/1.3, ALT / AST:17/18, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:138/, Differential-Neuts:65.8 %,
   Lymph:14.0 %, Mono:4.6 %, Eos:15.5 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:180 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   Mr. [**Name14 (STitle) 837**] is an 87 yo male with HTN, CRI, TBM admitted with
   respiratory failure secondary to migrated tracheal stent and pneumonia.
   .
   1.  Respiratory failure.  Patient is hypoxic with pao2 of 85 in spite
   of FIO2 of 60% and PEEP of 5.  Hypoxic respiratory failure is
   multifactorial secondary to pneumonia, TBM, and possible PE.  On
   Vanco/Levo/Zosyn at OSH for pneumonia, now day ?5.  Will continue with
   Vanco/Zosyn for hospital acquired pneumonia (patient was a resident at
   rehab).  Sputum cultures at OSH positive for MRSA only. Stent migration
   with distal airway collapse also likely contributing to respiratory
   failure.  Awaiting stent removal and Y-stent placement in OR tomorrow
   morning.  Patient also found to have elevated PA pressure on echo,
   though unchanged from 2 weeks prior, concerning for PE.  Patient
   underwent CTA this evening, but results are pending.   Will hold on
   heparin drip given that he is awaiting surgery in AM and will resume
   heparin if CTA is positive.
   - f/u CTA from OSH
   - continue vanco/zosyn for PNA
   - NPO after midnight for stent removal and placement
   - f/u sputum cultures, blood cultures
   - trend fever curve, wbc
   .
   2.  Hypotension.  Patient hypotensive with leukocytosis and pneumonia
   concerning for sepsis.  However, appears dehydrated on exam and CVP is
   low ([**4-16**]).  Will bolus patient to raise CVP to [**7-23**] and aim to titrate
   down levophed.
   - IVF boluses to maintain CVP > 8
   - wean levophed
   - hold home antihypertensive
   - continue vanco/zosyn for pneumonia
   - f/u blood, sputum cultures
   - follow UOP
   .
   3.  Volume status.  Patient appears dehydrated and has low CVP.
   - IVF bolus PRN to maintain CVP >8
   .
   4.  Eosinphilia.  On vanco/zosyn/levaquin at OSH.  No evidence of drug
   rash at present.  No clear etiology of eosinphilia at present.
   - monitor CBC with Diff
   - clarify with [**Hospital1 **] if patient previously had eosinphilia or drug rash
   .
   5.  CRI.  Creatinine is at baseline of 1 - 1.2.
   .
   Ppx: Heparin SQ, PPI, bowel regimen.
   NPO until surgery, then will resume tube feeds.
   Contact Info: [**Name2 (NI) 838**] - Health Care Proxy [**Telephone/Fax (1) 839**], cell
   [**Telephone/Fax (1) 840**].  Son ([**Known firstname **]) [**Telephone/Fax (1) 841**] (home).
   FULL CODE, confirmed with HCP, [**Name (NI) 838**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2148-8-29**] 12:05 AM
   Multi Lumen - [**2148-8-29**] 03:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-08-31 06:55:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 OR SENT - At [**2148-8-30**] 08:30 AM
 OR RECEIVED - At [**2148-8-30**] 09:18 AM
   Stent removed by IP in OR.
   ANtibiotics changed to Ceftaz/Vanc given concern for eosinophillia on
   Zosyn.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-8-29**] 10:21 PM
   Vancomycin - [**2148-8-30**] 07:56 AM
   Cefipime - [**2148-8-30**] 02:04 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2148-8-30**] 07:57 AM
   Heparin Sodium (Prophylaxis) - [**2148-8-30**] 03:56 PM
   Other medications:
   Ceftrazidime 1 g q 12h
   Atrovent
   Albuterol
   HSQ
   Colace
   Vanco 1 g q24 hr
   Ferrous Sulfate
   Lansoprazole
   Fentanyl
   Versed
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-8-31**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.8
   HR: 81 (72 - 89) bpm
   BP: 96/51(61) {84/45(55) - 130/72(83)} mmHg
   RR: 19 (15 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 79.6 kg
   Height: 68 Inch
    CVP: 10 (6 - 14)mmHg
   Total In:
                                                                  1,350 mL
                                                                    250 mL
   PO:
   TF:
                                                                    406 mL
                                                                     40 mL
   IVF:
                                                                    743 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  2,615 mL
                                                                    455 mL
   Urine:
                                                                  2,015 mL
                                                                    455 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -1,265 mL
                                                                   -205 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 61
   PIP: 12 cmH2O
   Plateau: 14 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 9 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Bronchial: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   168 K/uL
   8.7 g/dL
   99 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.9 mEq/L
   8 mg/dL
   102 mEq/L
   136 mEq/L
   25.6 %
   7.3 K/uL
        [image002.jpg]
                             [**2148-8-29**]  12:08 AM
                             [**2148-8-29**]  01:06 AM
                             [**2148-8-30**]  02:59 AM
                             [**2148-8-31**]  04:02 AM
   WBC
   15.9
   9.3
   7.3
   Hct
   32.1
   26.8
   25.6
   Plt
   266
   162
   168
   Cr
   1.2
   1.2
   1.1
   TCO2
   32
   Glucose
   102
   95
   99
   Other labs: PT / PTT / INR:13.2/35.9/1.1, ALT / AST:17/18, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:138/, Differential-Neuts:66.9 %,
   Lymph:12.6 %, Mono:5.2 %, Eos:15.0 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:180 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 917**] is an 87 yo male with HTN, CRI, TBM admitted with
   respiratory failure secondary to migrated tracheal stent and pneumonia,
   on Vanco/Ceftaz.
   .
   1.  Respiratory failure.  Due to PNA and migration of tracheal stent (?
   Post obstructive PNA).  Stent removed on [**8-30**].  Secretions are
   improved.  Patient initially doing well on SBT, however, had increasing
   FIO2 requirements, so may need positive pressure due to TBM.  Cultures
   here are negative, but from OSH, positive for MRSA.  Fever and WBC
   trending down here on antibiotics.
   -continue vanco/ceftaz (day 6 today)
   -trend fever curve, wbc, culture if spikes.
   -awaiting Y stent placement
   - wean FIO2 today
   .
   2.  Hypotension.  Patient hypotensive with pneumonia concerning for
   sepsis.  Now improved with aggressive fluids.  Now off pressors.
   - IVF boluses to maintain CVP > 8
   - hold home antihypertensive
   - continue vanco/ceftaz for pneumonia
   - f/u blood, sputum cultures
   - follow UOP
   .
   3.  Eosinphilia.  Patient had eosinophilia at OSH on
   vanco/zosyn/levaquin at OSH.  No evidence of drug rash at present.  No
   clear etiology of eosinphilia at present.  Zosyn was switched to ceftaz
   given eosinphilia.
   - monitor CBC with Diff
   - continue vaco/ceftaz
   .
   5.  CRI.  Creatinine is at baseline of 1 - 1.2.
   .
   Ppx: Heparin SQ, PPI, bowel regimen.
   Tube feeds.
   Contact Info: [**Name2 (NI) 838**] - Health Care Proxy [**Telephone/Fax (1) 839**], cell
   [**Telephone/Fax (1) 840**].  Son ([**Known firstname **]) [**Telephone/Fax (1) 841**] (home).
   FULL CODE, confirmed with HCP, [**Name (NI) 838**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2148-8-29**] 12:05 AM
   Multi Lumen - [**2148-8-29**] 03:19 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:  ICU care

2148-09-01 07:07:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   Failed SBT due to tachypnea and hypoxia.
   Unable to place NGT.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-8-29**] 10:21 PM
   Cefipime - [**2148-8-30**] 02:04 PM
   Vancomycin - [**2148-8-31**] 08:30 AM
   Ceftazidime - [**2148-9-1**] 01:57 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-9-1**] 12:01 AM
   Other medications:
   Miconazole powder
   Ceftazidime 1 g q 12 day 3
   Vancomycin 1 g q 24 (day 10)
   Atrovent
   Altbuterol PRN
   HSQ
   Colace
   Ferrous sulfate
   Lansoprazole 30 mg daily
   Fentanyl
   Versed
   Chlorhexidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-9-1**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 78 (74 - 115) bpm
   BP: 102/47(60) {91/47(57) - 127/70(85)} mmHg
   RR: 19 (18 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 79.6 kg
   Height: 68 Inch
    CVP: 6 (6 - 27)mmHg
   Total In:
                                                                  1,152 mL
                                                                    314 mL
   PO:
   TF:
                                                                    142 mL
                                                                     87 mL
   IVF:
                                                                    619 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                    885 mL
   Urine:
                                                                  2,800 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,648 mL
                                                                   -571 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 347 (347 - 347) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 15 cmH2O
   Plateau: 11 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 99%
   ABG: ///31/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: No(t) Thin
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: No(t) Normal), (S2: No(t) Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Rhonchorous: diffusely)
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   170 K/uL
   9.2 g/dL
   116 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.8 mEq/L
   10 mg/dL
   101 mEq/L
   138 mEq/L
   27.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2148-8-29**]  12:08 AM
                             [**2148-8-29**]  01:06 AM
                             [**2148-8-30**]  02:59 AM
                             [**2148-8-31**]  04:02 AM
                             [**2148-9-1**]  03:21 AM
   WBC
   15.9
   9.3
   7.3
   6.4
   Hct
   32.1
   26.8
   25.6
   27.5
   Plt
   266
   162
   168
   170
   Cr
   1.2
   1.2
   1.1
   1.1
   TCO2
   32
   Glucose
   102
   95
   99
   116
   Other labs: PT / PTT / INR:13.2/39.0/1.1, ALT / AST:17/18, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:138/, Differential-Neuts:65.3 %,
   Lymph:15.7 %, Mono:5.8 %, Eos:13.2 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:180 IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.5
   mg/dL
   Imaging: [**8-29**] - sputum culture.  Yeast.
   [**8-29**] - blood culture x 2 - NGTD
   .
   CXR. [**2148-8-31**].
   Heart size is smaller, edema is cleared from the right lung, left lower
   lobe atelectasis is still substantial but may have improved over the
   past several days, given return of mediastinum to the midline and
   opacification projecting medial to the left pulmonary artery. Small
   left pleural effusion unchanged.  Tip of the endotracheal tube is in
   standard placement, cuff less hyperinflated, left jugular line ends
   centrally, nasogastric tube passes below the diaphragm and out of view.
   Assessment and Plan
   Mr. [**Known lastname 917**] is an 87 yo male with HTN, CRI, TBM admitted with
   respiratory failure secondary to migrated tracheal stent and pneumonia,
   on Vanco/Ceftaz.
   .
   1.  Respiratory failure.  Due to PNA and migration of tracheal stent (?
   Post obstructive PNA).  Stent removed on [**8-30**].  Continued to have
   secretions and now with infiltrate on right lower lung.  Patient
   initially doing well on SBT, however, had increasing FIO2 requirements,
   so may need positive pressure due to TBM.  Now hypoxic today likely
   secondary to secretions; no fever or WBC to suggest worsening PNA.
   Cultures here are negative, but from OSH, positive for MRSA.  Fever and
   WBC trending down here on antibiotics.
   -continue vanco/ceftaz (day 9 today)
   -trend fever curve, wbc, culture if spikes.
   -awaiting Y stent placement, hopefully on monday
   - wean FIO2 today
   - trial of extubation ?tomorrow if hypoxia resolves and Y-stent can be
   placed
   .
   2.  Hypotension.  BP improved s/p fluid recussitation.  Now off
   pressors for several days.
   - hold home antihypertensive
   - continue vanco/ceftaz for pneumonia
   - f/u blood, sputum cultures
   - follow UOP
   .
   3.  Eosinphilia.  Patient had eosinophilia at OSH on
   vanco/zosyn/levaquin at OSH.  No evidence of drug rash at present.  No
   clear etiology of eosinphilia at present.  Zosyn was switched to ceftaz
   given eosinphilia and eosinophilia is mildy improving.
   - monitor CBC with Diff
   - continue vaco/ceftaz
   .
   5.  CRI.  Creatinine is at baseline of 1 - 1.2.
   .
   Ppx: Heparin SQ, PPI, bowel regimen.
   Tube feeds.
   Contact Info: [**Name2 (NI) 838**] - Health Care Proxy [**Telephone/Fax (1) 839**], cell
   [**Telephone/Fax (1) 840**].  Son ([**Known firstname **]) [**Telephone/Fax (1) 841**] (home).
   FULL CODE, confirmed with HCP, [**Name (NI) 838**].
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2148-8-29**] 03:19 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2148-09-01 09:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87M with TBM a/w respiratory failure due to migrated tracheal stent and
   post-obstructive MRSA PNA.  S/P stent removal.  Course c/b by
   difficulty weaning from vent.
   24 Hour Events:
   SBT started this AM x 1hour.  RBSI appx 60
   However increased secretions.
   SpO2 91% on 50%
   History obtained from Medical records
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-8-29**] 10:21 PM
   Cefipime - [**2148-8-30**] 02:04 PM
   Ceftazidime - [**2148-9-1**] 01:57 AM
   Vancomycin - [**2148-9-1**] 07:45 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-9-1**] 08:14 AM
   Other medications:
   colace
   FeSO4
   Prevacid
   peridex
   heparin sc TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-9-1**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 108 (74 - 115) bpm
   BP: 137/76(89) {95/47(58) - 137/76(89)} mmHg
   RR: 26 (18 - 29) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.5 kg (admission): 79.6 kg
   Height: 68 Inch
   CVP: 13 (6 - 27)mmHg
   Total In:
                                                                  1,152 mL
                                                                    756 mL
   PO:
   TF:
                                                                    142 mL
                                                                     87 mL
   IVF:
                                                                    619 mL
                                                                    639 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                  1,305 mL
   Urine:
                                                                  2,800 mL
                                                                  1,205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,648 mL
                                                                   -549 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 402 (248 - 402) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 24
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 6 cmH2O
   Plateau: 11 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 92%
   ABG: ///31/
   Ve: 11 L/min
   Physical Examination
   GEN     RASS 0
   CV       Irregular. No murmurs
   LUNGS  Scattered rhonchi
   ABD     Soft, NT
   EXT     [**3-16**] tone, +1 LE edema
   Skin     No rashes
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   170 K/uL
   116 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.8 mEq/L
   10 mg/dL
   101 mEq/L
   138 mEq/L
   27.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2148-8-29**]  12:08 AM
                             [**2148-8-29**]  01:06 AM
                             [**2148-8-30**]  02:59 AM
                             [**2148-8-31**]  04:02 AM
                             [**2148-9-1**]  03:21 AM
   WBC
   15.9
   9.3
   7.3
   6.4
   Hct
   32.1
   26.8
   25.6
   27.5
   Plt
   266
   162
   168
   170
   Cr
   1.2
   1.2
   1.1
   1.1
   TCO2
   32
   Glucose
   102
   95
   99
   116
   Other labs: PT / PTT / INR:13.2/39.0/1.1, ALT / AST:17/18, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:138/, Differential-Neuts:65.3 %,
   Lymph:15.7 %, Mono:5.8 %, Eos:13.2 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:180 IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   Overall obstacles to extubation include TBM, worsened RLL opacity and
   FIO2 requirement. He appears to be dependent on PEEP to clear his
   secretions. Fluid balance even for length of stay.
   RESP:
   1) Discussed with Dr. [**Last Name (STitle) 901**].  Given his dependence of PEEP is an
   obstacle to weaning he will go for stent placement tomorrow.  Plan for
   trial of extubation thereafter.
   2) Will continue bronchodilators and suctioning
   3) TBB even to negative 500.
   GI:
   1) resume tube feeds
   PPX:
   Heparin SC, PPI
   Dispo:
   Full code.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-8-29**] 03:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   On this day I was present with and reviewed today's note of Dr.
   [**Last Name (STitle) 889**] for the key portion of the service provided.  I agree with the
   findings and plan of care.
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2148-9-1**] 15:58 ------

2148-09-02 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Yesterday felt not to be stable enough for extubation due to
   excessive secretions and low oxygenation despite increased PEEP
   - Patient scheduled for IP placement of Y-stent this AM. Tube feeds
   held at midnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2148-8-30**] 02:04 PM
   Vancomycin - [**2148-9-1**] 07:45 AM
   Ceftazidime - [**2148-9-2**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2148-9-1**] 10:02 AM
   Heparin Sodium (Prophylaxis) - [**2148-9-2**] 12:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-9-2**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.5
   HR: 81 (71 - 114) bpm
   BP: 102/58(69) {87/50(62) - 137/76(96)} mmHg
   RR: 19 (17 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 79.6 kg
   Height: 68 Inch
    CVP: 8 (2 - 13)mmHg
   Total In:
                                                                  1,902 mL
                                                                    207 mL
   PO:
   TF:
                                                                    393 mL
                                                                      3 mL
   IVF:
                                                                  1,279 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                  2,970 mL
                                                                    750 mL
   Urine:
                                                                  2,870 mL
                                                                    550 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,068 mL
                                                                   -543 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 482 (248 - 482) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 80 cmH2O/mL
   SpO2: 96%
   ABG: ///29/
   Ve: 9.9 L/min
   Physical Examination
   General: Awake, comfortable, intubated
   HEENT: Pupils 1.5mm equal, minimally reactive
   Lungs: Clear, equal bilaterally
   Heart: S1S2 RRR
   Abdomen: + BS, soft, non-tender
   Peripheral Vascular: Right DP pulse: 2+, Left DP pulse: 2+
   Skin:  Not assessed
   Neurologic: Responds to: voice, commands  Movement: All extremities,
   Tone: Not assessed
   Labs / Radiology
   199 K/uL
   9.4 g/dL
   96 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.9 mEq/L
   9 mg/dL
   100 mEq/L
   136 mEq/L
   27.7 %
   5.9 K/uL
        [image002.jpg]
                             [**2148-8-29**]  12:08 AM
                             [**2148-8-29**]  01:06 AM
                             [**2148-8-30**]  02:59 AM
                             [**2148-8-31**]  04:02 AM
                             [**2148-9-1**]  03:21 AM
                             [**2148-9-2**]  04:09 AM
   WBC
   15.9
   9.3
   7.3
   6.4
   5.9
   Hct
   32.1
   26.8
   25.6
   27.5
   27.7
   Plt
   266
   162
   168
   170
   199
   Cr
   1.2
   1.2
   1.1
   1.1
   1.0
   TCO2
   32
   Glucose
   102
   95
   99
   116
   96
   Other labs: PT / PTT / INR:13.4/33.7/1.2, ALT / AST:17/18, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:138/, Differential-Neuts:65.2 %,
   Lymph:14.7 %, Mono:6.4 %, Eos:13.7 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:180 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.9
   mg/dL
   Micro data: Sputum [**8-29**]: NGTD
   CXR: [**9-1**] persistent retrocardiac density (unchanged), + hazy density R
   base with small amt pleural fluid on R
   Assessment and Plan
   Mr. [**Known lastname 917**] is an 87 yo male with HTN, CRI, TBM admitted with
   respiratory failure secondary to migrated tracheal stent and pneumonia,
   on Vanco/Ceftaz.
   .
   1.  Respiratory failure.  Due to PNA and migration of tracheal stent (?
   Post obstructive PNA).  Stent removed on [**8-30**].  Continued to have
   secretions and now with infiltrate on right lower lung.  Patient
   initially doing well on SBT, however, had increasing FIO2 requirements,
   so may need positive pressure due to TBM.  Now hypoxic today likely
   secondary to secretions; no fever or WBC to suggest worsening PNA.
   Cultures here are negative, but from OSH, positive for MRSA.  Fever and
   WBC trending down here on antibiotics.
   -continue vanco/ceftaz (day 10 today)
   -trend fever curve, wbc, culture if spikes.
   -awaiting Y stent placement, today by IP
   - wean FIO2 today
   - trial of extubation if hypoxia resolves and Y-stent can be placed
   .
   2.  Hypotension.  BP improved s/p fluid resuscitation.  Now off
   pressors for several days.
   - hold home antihypertensive
   - continue vanco/ceftaz for pneumonia
   - f/u blood, sputum cultures
   - follow UOP
   .
   3.  Eosinophilia.  Patient had eosinophilia at OSH on
   vanco/zosyn/levaquin at OSH.  No evidence of drug rash at present.  No
   clear etiology of eosinphilia at present.  Zosyn was switched to ceftaz
   given eosinophilia and eosinophilia is mildly improving.
   - monitor CBC with Diff, Eos trending down slowly (15.5
 13.7 today)
   - continue vaco/ceftaz
   .
   5.  CRI.  Creatinine is at baseline of 1 - 1.2.
   .
   Ppx: Heparin SQ, PPI, bowel regimen.
   Tube feeds.
   Contact Info: [**Name2 (NI) 838**] - Health Care Proxy [**Telephone/Fax (1) 839**], cell
   [**Telephone/Fax (1) 840**].  Son [**Known firstname 768**] [**Telephone/Fax (1) 841**] (home).
   FULL CODE, confirmed with HCP, [**Name (NI) 838**].
   ICU Care
   Nutrition: Tube feeds, held at midnight for OR this AM
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2148-8-29**] 03:19 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2148-09-03 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR RECEIVED - At [**2148-9-2**] 09:11 AM
 INVASIVE VENTILATION - STOP [**2148-9-2**] 02:30 PM
   admitted from OSH
 EKG - At [**2148-9-2**] 03:15 PM
   - Y stent placed yesterday, pt extubated, weaned to 35% FM
   - Overnight, agitated, received Haldol prn
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2148-9-2**] 10:27 AM
   Ceftazidime - [**2148-9-3**] 02:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2148-9-2**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2148-9-3**] 12:00 AM
   Haloperidol (Haldol) - [**2148-9-3**] 04:00 AM
   Other medications:
   Lansoprazole
   Colace
   SQ heparin
   Ceftaz 1 g q 8
   Vanco 1g q 24
   Robitussin
   NAC neb
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-9-3**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 110 (71 - 112) bpm
   BP: 138/86(98) {96/48(64) - 152/97(103)} mmHg
   RR: 25 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.4 kg (admission): 79.6 kg
   Height: 68 Inch
    CVP: 8 (8 - 8)mmHg
   Total In:
                                                                  1,435 mL
                                                                    182 mL
   PO:
   TF:
                                                                      3 mL
   IVF:
                                                                    712 mL
                                                                    122 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  2,740 mL
                                                                    790 mL
   Urine:
                                                                  2,540 mL
                                                                    790 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,305 mL
                                                                   -608 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Set):
   Vt (Spontaneous):
   PS :
   RR (Set):
   RR (Spontaneous):
   PEEP:
   FiO2: 35%
   PIP:
   SpO2:
   ABG: 7.48/43/84.[**Numeric Identifier 117**]/27/7
   Ve:
   PaO2 / FiO2:
   Physical Examination
   Gen: Alert but confused
   HEENT: PERRL, anicetric
   Neck: Supple
   Lungs: Coarse BS bilaterally
   Abd: Soft, NT/ND
   EXT: Warm, dry, well-perfused
   Neuro: Oriented x 1, non-cooperative, MAE
   Labs / Radiology
   199 K/uL
   9.4 g/dL
   90 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.5 mEq/L
   7 mg/dL
   101 mEq/L
   139 mEq/L
   27.7 %
   5.9 K/uL
        [image002.jpg]
                             [**2148-8-29**]  12:08 AM
                             [**2148-8-29**]  01:06 AM
                             [**2148-8-30**]  02:59 AM
                             [**2148-8-31**]  04:02 AM
                             [**2148-9-1**]  03:21 AM
                             [**2148-9-2**]  04:09 AM
                             [**2148-9-2**]  02:26 PM
                             [**2148-9-2**]  07:54 PM
                             [**2148-9-3**]  05:07 AM
   WBC
   15.9
   9.3
   7.3
   6.4
   5.9
   Hct
   32.1
   26.8
   25.6
   27.5
   27.7
   Plt
   266
   162
   168
   170
   199
   Cr
   1.2
   1.2
   1.1
   1.1
   1.0
   1.0
   TCO2
   32
   32
   33
   Glucose
   102
   95
   99
   116
   96
   90
   Other labs: PT / PTT / INR:13.4/33.7/1.2, ALT / AST:17/18, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:138/, Differential-Neuts:65.2 %,
   Lymph:14.7 %, Mono:6.4 %, Eos:13.7 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:180 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 917**] is an 87 yo male with HTN, CRI, TBM admitted with
   respiratory failure secondary to migrated tracheal stent and pneumonia,
   on Vanco/Ceftaz.
   .
   1.  Respiratory failure/TBM.  Due to PNA and migration of tracheal
   stent (? Post obstructive PNA).  Stent removed on [**8-30**], Y stent placed
   [**9-2**].  Fever and WBC trending down here on antibiotics.  Extubated
   yesterday, tolerating FM. Resp function appears improved s/p Y stent.
   -continue vanco/ceftaz (day 11 today) for total of 14 day course
   -trend fever curve, wbc, culture if spikes.
   -continue Mucomyst nebs per IP
   - wean FIO2 today as tolerated
   .
   2.  Hypotension.  BP improved s/p fluid resuscitation.  Now off
   pressors for several days.
   - hold home antihypertensive
   - continue vanco/ceftaz for pneumonia
   - f/u blood, sputum cultures
   - follow UOP
   .
   3.  Eosinophilia.  Patient had eosinophilia at OSH on
   vanco/zosyn/levaquin at OSH.  No evidence of drug rash at present.  No
   clear etiology of eosinphilia at present.  Zosyn was switched to ceftaz
   given eosinophilia and eosinophilia is mildly improving.
   - monitor CBC with Diff, Eos trending down slowly
   - continue vaco/ceftaz
   .
   5.  CRI.  Creatinine is at baseline of 1 - 1.2.
   6. Agitation/Confusion: Likely delirium multifactorial in setting of
   recent anesthesia, Ativan, and sleep cycle disturbance.
   - Start Zyprexa standing dose, with Haldol PRN
   - Continually re-orient pt
   - Optimize sleep schedule if possible
   - Avoid benzos
   - Will need swallow study if unable to retrieve study report from [**Hospital1 **]
   .
   Ppx: Heparin SQ, PPI, bowel regimen.
   Tube feeds. (needs swallow study)
   Contact Info: [**Name2 (NI) 838**] - Health Care Proxy [**Telephone/Fax (1) 839**], cell
   [**Telephone/Fax (1) 840**].  Son [**Known firstname 768**] [**Telephone/Fax (1) 841**] (home).
   FULL CODE, confirmed with HCP, [**Name (NI) 838**].
   ICU Care
   Nutrition: TF (needs swallow eval)
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-8-29**] 03:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2148-09-04 14:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Agitated overnight, self-d/c
d hown NGT and rectal tube, received
   haldol with eventual sedation
   - Per daughter, pt was quite functional prior to this recent
   hospitalization/decline
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2148-9-4**] 09:54 AM
   Ceftazidime - [**2148-9-4**] 01:52 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-9-3**] 04:28 PM
   Haloperidol (Haldol) - [**2148-9-3**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-9-4**] 02:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 95 (92 - 122) bpm
   BP: 135/67(83) {105/58(73) - 157/98(105)} mmHg
   RR: 25 (20 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 79.6 kg
   Height: 68 Inch
    CVP: 4 (2 - 4)mmHg
   Total In:
                                                                  1,047 mL
                                                                  1,010 mL
   PO:
   TF:
                                                                     52 mL
   IVF:
                                                                    715 mL
                                                                  1,010 mL
   Blood products:
   Total out:
                                                                  2,905 mL
                                                                  1,275 mL
   Urine:
                                                                  2,805 mL
                                                                  1,275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,858 mL
                                                                   -265 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   HEENT: PERRL
   Lungs: Rhonchi bilaterally
   Heart: s1s2 RRR
   Abd: Soft, NT/ND
   Ext: Warm, well-perfused
   Neuro: Sedated, opens eyes to voice
   Labs / Radiology
   282 K/uL
   9.9 g/dL
   81 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.3 mEq/L
   7 mg/dL
   103 mEq/L
   142 mEq/L
   29.8 %
   6.3 K/uL
        [image002.jpg]
                             [**2148-8-29**]  12:08 AM
                             [**2148-8-29**]  01:06 AM
                             [**2148-8-30**]  02:59 AM
                             [**2148-8-31**]  04:02 AM
                             [**2148-9-1**]  03:21 AM
                             [**2148-9-2**]  04:09 AM
                             [**2148-9-2**]  02:26 PM
                             [**2148-9-2**]  07:54 PM
                             [**2148-9-3**]  05:07 AM
                             [**2148-9-4**]  03:37 AM
   WBC
   15.9
   9.3
   7.3
   6.4
   5.9
   6.8
   6.3
   Hct
   32.1
   26.8
   25.6
   27.5
   27.7
   29.8
   29.8
   Plt
   266
   162
   168
   170
   199
   227
   282
   Cr
   1.2
   1.2
   1.1
   1.1
   1.0
   1.0
   1.0
   TCO2
   32
   32
   33
   Glucose
   102
   95
   99
   116
   96
   90
   81
   Other labs: PT / PTT / INR:13.4/33.7/1.2, ALT / AST:17/18, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:138/, Differential-Neuts:61.7 %,
   Lymph:19.2 %, Mono:5.9 %, Eos:13.1 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:180 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 917**] is an 87 yo male with HTN, CRI, TBM admitted with
   respiratory failure secondary to migrated tracheal stent and pneumonia,
   on Vanco/Ceftaz.
   .
   1.  Respiratory failure/TBM.  Due to PNA and migration of tracheal
   stent (? Post obstructive PNA).  Stent removed on [**8-30**], Y stent placed
   [**9-2**].  Afebrile and WBC trending down here on antibiotics.  Extubated
   on RA. Resp function appears improved s/p Y stent.
   -continue vanco/ceftaz (day 11 today) for total of 14 day course
   - culture if spikes.
   -continue Mucomyst nebs per IP
   - wean FIO2 today as tolerated
   .
   2.  Hypotension.  BP improved s/p fluid resuscitation.  Now off
   pressors for several days.
   - hold home antihypertensive
   - continue vanco/ceftaz for pneumonia
   - f/u blood, sputum cultures
   - follow UOP
   .
   3.  Eosinophilia.  Patient had eosinophilia at OSH on
   vanco/zosyn/levaquin at OSH.  No evidence of drug rash at present.  No
   clear etiology of eosinphilia at present.  Zosyn was switched to ceftaz
   given eosinophilia and eosinophilia is mildly improving.
   - monitor CBC with Diff, Eos trending down slowly
   - continue vaco/ceftaz
   .
   5.  CRI.  Creatinine is at baseline of 1 - 1.2.
   6. Agitation/Confusion: Likely delirium multifactorial in setting of
   recent anesthesia, Ativan, and sleep cycle disturbance.
   - Zyprexa standing dose 5mg in AM, 10mg in PM, with Haldol PRN
   - Continually re-orient pt
   - Optimize sleep schedule if possible
   - Avoid benzos
   .
   7. Aspiration Risk: Failed bedside swallow at [**Hospital1 **] last month.
   - Swallow study here
   - [**Month (only) 8**] need PEG
   .
   Ppx: Heparin SQ, PPI, bowel regimen.
   Tube feeds. (needs swallow study)
   Contact Info: [**Name2 (NI) 838**] - Health Care Proxy [**Telephone/Fax (1) 839**], cell
   [**Telephone/Fax (1) 840**].  Son [**Known firstname 768**] [**Telephone/Fax (1) 841**] (home).
   FULL CODE, confirmed with HCP, [**Name (NI) 838**].
   ICU Care
   Nutrition: TF (needs swallow eval)
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-8-29**] 03:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2148-09-05 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -          Less agitated, received less Haldol overnight
   -          Pulled out NGT again, was coughing, concern for possible
   aspiration of TF but CXR unchanged
   -          Increased Zyprexa to 10 q PM and 5 q AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2148-9-4**] 09:54 AM
   Ceftazidime - [**2148-9-4**] 01:52 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2148-9-4**] 02:44 PM
   Heparin Sodium (Prophylaxis) - [**2148-9-4**] 04:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-9-5**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 106 (89 - 136) bpm
   BP: 138/73(86) {102/58(62) - 157/84(104)} mmHg
   RR: 19 (19 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.4 kg (admission): 79.6 kg
   Height: 68 Inch
    CVP: 4 (4 - 4)mmHg
   Total In:
                                                                  1,354 mL
                                                                    146 mL
   PO:
   TF:
                                                                    204 mL
                                                                     70 mL
   IVF:
                                                                  1,150 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  2,020 mL
                                                                    395 mL
   Urine:
                                                                  2,020 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -666 mL
                                                                   -249 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   Gen: Alert, awake, confused
   HEENT: PERRL
   Lungs: Scattered rhonchi
   Heart: s1s2 RRR
   Abd: soft, NT/ND
   Ext: WD/WP
   Labs / Radiology
   333 K/uL
   10.7 g/dL
   93 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.9 mEq/L
   9 mg/dL
   105 mEq/L
   145 mEq/L
   32.7 %
   9.5 K/uL
        [image002.jpg]
                             [**2148-8-29**]  01:06 AM
                             [**2148-8-30**]  02:59 AM
                             [**2148-8-31**]  04:02 AM
                             [**2148-9-1**]  03:21 AM
                             [**2148-9-2**]  04:09 AM
                             [**2148-9-2**]  02:26 PM
                             [**2148-9-2**]  07:54 PM
                             [**2148-9-3**]  05:07 AM
                             [**2148-9-4**]  03:37 AM
                             [**2148-9-5**]  04:05 AM
   WBC
   9.3
   7.3
   6.4
   5.9
   6.8
   6.3
   9.5
   Hct
   26.8
   25.6
   27.5
   27.7
   29.8
   29.8
   32.7
   Plt
   162
   168
   170
   199
   227
   282
   333
   Cr
   1.2
   1.1
   1.1
   1.0
   1.0
   1.0
   1.1
   TCO2
   32
   32
   33
   Glucose
   95
   99
   116
   96
   90
   81
   93
   Other labs: PT / PTT / INR:13.7/55.4/1.2, ALT / AST:17/18, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:138/, Differential-Neuts:61.7 %,
   Lymph:19.2 %, Mono:5.9 %, Eos:13.1 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:180 IU/L, Ca++:9.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 917**] is an 87 yo male with HTN, CRI, TBM admitted with
   respiratory failure secondary to migrated tracheal stent and pneumonia,
   on Vanco/Ceftaz.
   .
   1.  Respiratory failure/TBM.  Due to PNA and migration of tracheal
   stent (? Post obstructive PNA).  Stent removed on [**8-30**], Y stent placed
   [**9-2**].  Afebrile and WBC trending down here on antibiotics.  Extubated
   on RA. Resp function appears improved s/p Y stent.
   -continue vanco/ceftaz (day 12 today) for total of 14 day course
   - culture if spikes.
   -continue Mucomyst nebs per IP
   .
   2.  Hypotension.  BP improved s/p fluid resuscitation.  Now off
   pressors for several days.
   - hold home antihypertensive
   - continue vanco/ceftaz for pneumonia
   - f/u blood, sputum cultures
   - follow UOP
   .
   3.  Eosinophilia.  Patient had eosinophilia at OSH on
   vanco/zosyn/levaquin at OSH.  No evidence of drug rash at present.  No
   clear etiology of eosinphilia at present.  Zosyn was switched to ceftaz
   given eosinophilia and eosinophilia is mildly improving.
   - monitor CBC with Diff, Eos trending down slowly
   - continue vaco/ceftaz
   .
   5.  CRI.  Creatinine is at baseline of 1 - 1.2.
   6. Agitation/Confusion: Likely delirium multifactorial in setting of
   recent anesthesia, Ativan, and sleep cycle disturbance.
   - Zyprexa standing dose 5mg in AM, 10mg in PM, with Haldol PRN
   - Continually re-orient pt
   - Optimize sleep schedule if possible
   - Avoid benzos
   .
   7. Aspiration Risk: Failed bedside swallow at [**Hospital1 **] last month.
   - Swallow study here
   - [**Month (only) 8**] need PEG
   .
   Ppx: Heparin SQ, PPI, bowel regimen.
   Tube feeds. (needs swallow study)
   Contact Info: [**Name2 (NI) 838**] - Health Care Proxy [**Telephone/Fax (1) 839**], cell
   [**Telephone/Fax (1) 840**].  Son [**Known firstname 768**] [**Telephone/Fax (1) 841**] (home).
   FULL CODE, confirmed with HCP, [**Name (NI) 838**].
   ICU Care
   Nutrition: TF (needs swallow eval)
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-8-29**] 03:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out  to Medical floor
   Disposition:

2148-09-06 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   -          Failed S&S eval yesterday, recommend re-eval Monday before
   PEG discussion
   -          Dobhoff replaced x 2
   -          Called out with 1:1 sitter
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2148-9-5**] 09:00 AM
   Ceftazidime - [**2148-9-6**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-9-5**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-9-6**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 111 (92 - 116) bpm
   BP: 128/93(100) {116/54(69) - 154/109(117)} mmHg
   RR: 22 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.4 kg (admission): 79.6 kg
   Height: 68 Inch
    CVP: 9 (-12 - 10)mmHg
   Total In:
                                                                    560 mL
                                                                    123 mL
   PO:
   TF:
                                                                     70 mL
   IVF:
                                                                    490 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  1,345 mL
                                                                    360 mL
   Urine:
                                                                  1,345 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -785 mL
                                                                   -237 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG:
   Physical Examination
   Gen: Elderly male, [**Year (4 digits) 1108**] but not oriented
   HEENT: PERRL
   Lungs: Coarse BS bilaterally
   Heart: s1s2 RRR
   Abd: Soft, NT/ND
   Ext: Warm, dry, well-perfused
   Neuro: [**Last Name (LF) **], [**First Name3 (LF) 1109**], not oriented
   Labs / Radiology
   341 K/uL
   10.5 g/dL
   78 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.7 mEq/L
   8 mg/dL
   105 mEq/L
   145 mEq/L
   31.3 %
   9.3 K/uL
        [image002.jpg]
                             [**2148-8-30**]  02:59 AM
                             [**2148-8-31**]  04:02 AM
                             [**2148-9-1**]  03:21 AM
                             [**2148-9-2**]  04:09 AM
                             [**2148-9-2**]  02:26 PM
                             [**2148-9-2**]  07:54 PM
                             [**2148-9-3**]  05:07 AM
                             [**2148-9-4**]  03:37 AM
                             [**2148-9-5**]  04:05 AM
                             [**2148-9-6**]  04:16 AM
   WBC
   9.3
   7.3
   6.4
   5.9
   6.8
   6.3
   9.5
   9.3
   Hct
   26.8
   25.6
   27.5
   27.7
   29.8
   29.8
   32.7
   31.3
   Plt
   162
   168
   170
   199
   227
   282
   333
   341
   Cr
   1.2
   1.1
   1.1
   1.0
   1.0
   1.0
   1.1
   1.1
   TCO2
   32
   33
   Glucose
   95
   99
   116
   96
   90
   81
   93
   78
   Other labs: PT / PTT / INR:14.5/34.6/1.3, ALT / AST:17/18, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:138/, Differential-Neuts:61.3 %,
   Lymph:14.7 %, Mono:6.8 %, Eos:17.1 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:180 IU/L, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.6
   mg/dL
   CXR [**9-6**]: Worsening bibasilar consolidations, ? aspiration
   MICRO: Coag + staph [**9-2**]
   Assessment and Plan
   Mr. [**Known lastname 917**] is an 87 yo male with HTN, CRI, TBM admitted with
   respiratory failure secondary to migrated tracheal stent and pneumonia,
   on Vanco/Ceftaz.
   .
   1.  Respiratory failure/TBM/PNA.  Due to PNA and migration of tracheal
   stent (? Post obstructive PNA).  Stent removed on [**8-30**], Y stent placed
   [**9-2**].  Afebrile and WBC trending down here on antibiotics.  Extubated
   on RA. Resp function appears improved s/p Y stent.
   -continue vanco/ceftaz (day 14 today) for total of 14 day course
   - culture if spikes.
   -continue Mucomyst nebs per IP
   - CXR with bibasilar consolidations, prob aspiration; due to stop abx
   today, sats 100% on room air; team will follow closely
   - continue aspiration precautions
   .
   2.  Eosinophilia.  Patient had eosinophilia at OSH on
   vanco/zosyn/levaquin at OSH.  No evidence of drug rash at present.  No
   clear etiology of eosinphilia at present.  Zosyn was switched to ceftaz
   given eosinophilia and eosinophilia is mildly improving.
   - monitor CBC with Diff, Eos trending down slowly
   .
   3.  CRI.  Creatinine is at baseline of 1 - 1.2.
   .
   4. Agitation/Confusion: Likely delirium multifactorial in setting of
   recent anesthesia, Ativan, and sleep cycle disturbance.
   - Zyprexa standing dose 5mg in AM, 10mg in PM, with Haldol PRN
   - Continually re-orient pt
   - Optimize sleep schedule if possible
   - Avoid benzos
   .
   5. Aspiration Risk: Failed Swallow Study yesterday but possible that he
   may improve and avoid need for PEG
   - Re-eval on Monday
   - [**Month (only) 8**] need PEG if still failing
   - CXR demonstrates probable ongoing aspiration
   .
   Ppx: Heparin SQ, PPI, bowel regimen.
   Tube feeds.
   Contact Info: [**Name2 (NI) 838**] - Health Care Proxy [**Telephone/Fax (1) 839**], cell
   [**Telephone/Fax (1) 840**].  Son [**Known firstname 768**] [**Telephone/Fax (1) 841**] (home).
   FULL CODE, confirmed with HCP, [**Name (NI) 838**].
   ICU Care
   Nutrition: TF (needs swallow eval)
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-8-29**] 03:19 PM
   Prophylaxis:
   DVT:  Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out  to Medical floor

2148-09-08 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Bronch with removal of large mucous plugs
   Family requesting family meeting
 arrange on Monday for Tuesday
   meeting
   Delirious
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2148-9-6**] 02:00 AM
   Vancomycin - [**2148-9-6**] 08:06 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2148-9-7**] 11:02 AM
   Heparin Sodium (Prophylaxis) - [**2148-9-7**] 10:00 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-9-8**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.7
   HR: 82 (68 - 122) bpm
   BP: 107/57(69) {97/50(65) - 133/75(111)} mmHg
   RR: 22 (18 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 79.6 kg
   Height: 68 Inch
             Total In:
                                                                    220 mL
                                                                     77 mL
   PO:
             TF:
   IVF:
                                                                    220 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  1,730 mL
                                                                    330 mL
   Urine:
                                                                  1,730 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,510 mL
                                                                   -253 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG:
   Physical Examination
   Gen: lethargic elderly male, in restraints, shakes/nods appropriately
   to questions
   HEENT: NG tube present, left IJ in place, site without erythema or
   discharge. MM appear slightly dry
   CV: RRR, no murmurs, rubs or gallops
   Pulm: diffuse rhonchi throughtout b/l lung fields, no crackles or
   wheezes
   Abd: soft, NT, ND, bowel sounds present
   Ext: no peripheral edema, decreased skin turgor, no rashes noted
   Labs / Radiology
   305 K/uL
   10.5 g/dL
   81 mg/dL
   1.2 mg/dL
   31 mEq/L
   3.8 mEq/L
   12 mg/dL
   103 mEq/L
   144 mEq/L
   31.1 %
   9.7 K/uL
        [image002.jpg]
                             [**2148-8-31**]  04:02 AM
                             [**2148-9-1**]  03:21 AM
                             [**2148-9-2**]  04:09 AM
                             [**2148-9-2**]  02:26 PM
                             [**2148-9-2**]  07:54 PM
                             [**2148-9-3**]  05:07 AM
                             [**2148-9-4**]  03:37 AM
                             [**2148-9-5**]  04:05 AM
                             [**2148-9-6**]  04:16 AM
                             [**2148-9-8**]  05:23 AM
   WBC
   7.3
   6.4
   5.9
   6.8
   6.3
   9.5
   9.3
   9.7
   Hct
   25.6
   27.5
   27.7
   29.8
   29.8
   32.7
   31.3
   31.1
   Plt
   168
   170
   199
   227
   282
   333
   341
   305
   Cr
   1.1
   1.1
   1.0
   1.0
   1.0
   1.1
   1.1
   1.2
   TCO2
   32
   33
   Glucose
   99
   116
   96
   90
   81
   93
   78
   81
   Other labs: PT / PTT / INR:14.5/34.6/1.3, Ca++:9.8 mg/dL, Mg++:2.1
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   87 yo male with history of MRSA PNA, TBM, and recent respiratory
   failure, now s/p Y-stenting and course of antibiotics, called out to
   floor briefly, but now transferred back to the ICU for hypoxia and
   tachypnea.
   .
   #. Hypoxia -  DDx is broad. this is likely a multifactorial process, as
   pt with recent HCAP MRSA PNA, ongoing severe TBM, and copious
   secretions causing mucus plugging. Can not r/o an aspiration event
   given ongoing TFs and poor mental status. Doesn't carry dx of CHF, but
   can't exclude volume overload from cardiac etiology. Improved since
   bronch with mucous plug removal yesterday.
   -- NAC nebs standing
   -- albuterol + ipratropium nebs standing
   -- guaifenacin standing
   -- chest PT TID
   -- frequent deep suctioning
   -- HOB elevation
   -- f/u sputum cultures from bronch
   .
   # Delirium - likely related to prolonged hospital course and ICU stays.
   Self d/c'ed NGTs and rectal tubes in ICU.
   -- standing zyprexa (5qAM/10qPM) and haldol prn
   -- reorientation
   -- avoid benzos
   -- consider [**Female First Name (un) 1162**] psych c/s
   -- r/o organic etiology, f/u TSH, RPR, B12
   .
   # CRI
   -- currently at baseline, monitor
   -- renally dose meds
   .
   #. Anemia: stable, will continue to monitor CBC daily and trend Hct.
   .
   # FEN:
   -- failed S/S here, re-order as patient with improved mental status as
   compared to prior
   -- tube feeds through NG tube
   -- replete lytes and fluids as needed.
   .
   # Glycemic Control
 good control
   .
   # Access
   -- LIJ TLC, poor peripheral access
 will ask IV team to attempt
   placement
   .
   # Ppx:
   -- Heparin SQ, PPI, bowel regimen.
   .
   # Code Status:
   -- Full Code, has been confirmed with HCP
   .
   # Contact Info: [**Name2 (NI) 838**] - Health Care Proxy [**Telephone/Fax (1) 839**], cell
   [**Telephone/Fax (1) 840**]. Son ([**Known firstname **]) [**Telephone/Fax (1) 841**] (home)  - family asking for
   family meeting
 suggested the team touch base with family on [**9-9**] to
   set up a meeting for [**9-10**]
   .
   # Dispo
 Considering patient
s long hospitalization and several
   episodes of mucous plugging with 3 intubations per the family, the [**Hospital **]
   nursing care seems integral to this patient
s longterm success. Would
   suggest the patient remain in the ICU until transfer to rehab.
   ------ Protected Section ------
   I saw and examined the patient and was physically present with the
   ICU residents for key portions of the service provided.  I agree with
   the above note including the assessment and plan.   In addition I would
   add/emphasize:
   87M w/ hx COPD/HTN/CRI, s/p recent hospitalization in [**7-19**] at [**Hospital 833**]
   Hospital for MRSA pneumonia where dx tracheobronchomalacia which was
   subsequently stented at [**Hospital1 12**].  Admitted to [**Hospital1 5**] [**8-28**]
  previous MICU
   stay earlier this admission.  Transferred to ICU for close monitoring
   of airway, hypoxemia after triggering on floor [**9-6**] with resp distress,
   hypoxemia, mucous plugging.  IP performed FOB cleanout and assessment
   of stent position (fine)
 large amounts of material removed.  Some
   confusion overnight.
   On exam:
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.7
   HR: 82 (68 - 122) bpm
   BP: 107/57(69) {97/50(65) - 133/75(111)} mmHg
   RR: 22 (18 - 31) insp/min
   SpO2: 98%
   Somnolent elderly male, confused.
   MM dry
   CV
 RRR
   Lungs
 rhonchi throughout
   Abd
 benign bs+
   Ext
 no c/c/e
   A/P
   87M recent hx MRSA PNA tracheobroncheomalacia s/p stenting (y-stent
   most recently) transferred to floor retransferred back to ICU for
   hypoxia, tachypnea presumed sec to mucous plugging.  Stent in
   appropriate position.  Significant secretions removed on cleanout FOB.
   Resp
 hypoxemic resp failure.  Etiol presumed sec mucous plugging
   related to PNA and moving secretions beyond stent.
                   Chest PT
                   Neb saline to keep secretions moist
 esp important in
   setting of stent per IP
                   IP following.
                   Freq deep suctioning
   Delerium/Delta MS
                   [**Name13 (STitle) 1164**] with improvement of hypoxemia but still not
   back to baseline per report
                   -cont follow if not at baseline, further eval including
   possible imaging/neuro consult
                   -avoid sedating meds
                   -haldol/zyprexa
   CRI         -at baseline
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 911**], MD
   on:[**2148-9-8**] 05:49 PM ------

2148-09-09 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Sundowning agitation that required restraints
   Pulled out his NG (dopoff )
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2148-9-6**] 08:06 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2148-9-8**] 09:30 AM
   Heparin Sodium (Prophylaxis) - [**2148-9-8**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-9-9**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 90 (64 - 97) bpm
   BP: 127/85(94) {84/26(40) - 149/85(94)} mmHg
   RR: 21 (17 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.4 kg (admission): 79.6 kg
   Height: 68 Inch
             Total In:
                                                                    780 mL
                                                                    464 mL
   PO:
             TF:
                                                                    150 mL
                                                                    243 mL
   IVF:
                                                                    240 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                    810 mL
                                                                    200 mL
   Urine:
                                                                    810 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -30 mL
                                                                    264 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   Gen: elderly male, in restraints, awake alert, oriented to type of
   environment, and year, but not month, or day , or president.
   Cooperative. Breathing comfortably.
   HEENT: NG tube present, left IJ in place, site without erythema or
   discharge. MM appear slightly dry. PEERL, EOMI.
   CV: RRR, no murmurs, rubs or gallops
   Pulm: coarse breath sounds, no rhonchi,  crackles or wheezes
   Abd: soft, NT, ND, bowel sounds present
   Ext: no peripheral edema, decreased skin turgor, no rashes noted ,
   DP2+,
   Labs / Radiology
   323 K/uL
   10.5 g/dL
   96 mg/dL
   1.1 mg/dL
   31 mEq/L
   4.0 mEq/L
   14 mg/dL
   104 mEq/L
   144 mEq/L
   30.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2148-9-1**]  03:21 AM
                             [**2148-9-2**]  04:09 AM
                             [**2148-9-2**]  02:26 PM
                             [**2148-9-2**]  07:54 PM
                             [**2148-9-3**]  05:07 AM
                             [**2148-9-4**]  03:37 AM
                             [**2148-9-5**]  04:05 AM
                             [**2148-9-6**]  04:16 AM
                             [**2148-9-8**]  05:23 AM
                             [**2148-9-9**]  05:30 AM
   WBC
   6.4
   5.9
   6.8
   6.3
   9.5
   9.3
   9.7
   9.4
   Hct
   27.5
   27.7
   29.8
   29.8
   32.7
   31.3
   31.1
   30.3
   Plt
   170
   199
   227
   282
   333
   341
   305
   323
   Cr
   1.1
   1.0
   1.0
   1.0
   1.1
   1.1
   1.2
   1.1
   TCO2
   32
   33
   Glucose
   116
   96
   90
   81
   93
   78
   81
   96
   Other labs: PT / PTT / INR:14.5/34.6/1.3, ALT / AST:17/18, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:138/, Differential-Neuts:61.3 %,
   Lymph:14.7 %, Mono:6.8 %, Eos:17.1 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:180 IU/L, Ca++:9.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   87 yo male with history of MRSA PNA, TBM, and recent respiratory
   failure, now s/p Y-stenting and course of antibiotics, called out to
   floor briefly, but now transferred back to the ICU for hypoxia and
   tachypnea.
   .
   #. Hypoxia -  DDx is broad. this is likely a multifactorial process, as
   pt with recent HCAP MRSA PNA, ongoing severe TBM, and copious
   secretions causing mucus plugging. Can not r/o an aspiration event
   given ongoing TFs and poor mental status. Doesn't carry dx of CHF, but
   can't exclude volume overload from cardiac etiology. Improved since
   bronch with mucous plug removal yesterday.
   -- NAC nebs standing
   -- albuterol + ipratropium nebs standing
   -- guaifenacin standing
   -- chest PT TID
   -- frequent deep suctioning
   -- HOB elevation
   -- f/u sputum cultures from bronch-  + for MRSA, rare yeast.
   .
   # Delirium/dementia - likely  delirium related to prolonged hospital
   course and ICU stays, though will consider other causes.
   -- UCx: NEG, Urine Dip; NEG, Urine microscopic showed + 9 WBC, 1 EPI,
   with negative cx. Should be repeated on floor.
   -- standing zyprexa (5qAM/10qPM) and haldol prn
   -- reorientation
   -- avoid benzos
   -- consider [**Female First Name (un) 1162**] psych c/s
   -- F/u TSH, RPR, B12, repeat UA.
   .
   # CRI
   -- currently at baseline, monitor
   -- renally dose meds
   .
   #. Anemia: stable, will continue to monitor CBC daily and trend Hct.
   .
   # FEN:
   -- pt removed his Dopoff tube.
   -- S/S attempted to re-eval, but patient was uncooperateive. They will
   retry this afternoon.
   -- If unable to take PO per S/S eval, then will need to go to IR for
   replacement of Dopoff.
   -- replete lytes and fluids as needed.
   .
   # Glycemic Control
 good control
   .
   # Access
   -- Has had his L IJ in place for >10days.
   -- Will attempt to place PIV today, then pull LIJ
   .
   # Ppx:
   -- Heparin SQ, PPI, bowel regimen.
   .
   # Code Status:
   -- Full Code, has been confirmed with HCP
   .
   # Contact Info: [**Name2 (NI) 838**] - Health Care Proxy [**Telephone/Fax (1) 839**], cell
   [**Telephone/Fax (1) 840**]. Son ([**Known firstname **]) [**Telephone/Fax (1) 841**] (home)  - family asking for
   family meeting
 suggested the team touch base with family on [**9-9**] to
   set up a meeting for [**9-10**]
   .
   # Dispo
 Pt breathing comfortably and SATTing 98-100% on room air with
   normal HR and pressure. Stable and can be transferred to floor for
   remaining eval and placement into rehab.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2148-9-8**] 01:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-9-7**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-09-09 12:19:00 Physician Attending Progress Note
Chief Complaint: aspiration and respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 87 yr old with aspiration, trachomalacia s/p Y stent
   [**63**] Hour Events: severe but waxing and [**Doctor Last Name 226**] agitation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2148-9-9**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2148-9-9**] 08:00 AM
   Other medications:
   Olanzapine, SC heparin, prevacid, NAC nebs, Guaifensen, Atrivent/Akb
   nebs
   Colace, Iron
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2148-9-9**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.3
   HR: 101 (64 - 103) bpm
   BP: 115/61(73) {108/50(64) - 149/85(98)} mmHg
   RR: 21 (17 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.4 kg (admission): 79.6 kg
   Height: 68 Inch
             Total In:
                                                                    780 mL
                                                                    550 mL
   PO:
             TF:
                                                                    150 mL
                                                                    280 mL
   IVF:
                                                                    240 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                    810 mL
                                                                    435 mL
   Urine:
                                                                    810 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -30 mL
                                                                    115 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   Gen: alert pesantly confused
   HEENT: dry orophaynx
   Neck: suplle
   CVRR
   Chest: good air movement, scatterd basilarrales
   Abd soft NT
   Ext
 no edema
   Labs / Radiology
   10.5 g/dL
   323 K/uL
   96 mg/dL
   1.1 mg/dL
   31 mEq/L
   4.0 mEq/L
   14 mg/dL
   104 mEq/L
   144 mEq/L
   30.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2148-9-1**]  03:21 AM
                             [**2148-9-2**]  04:09 AM
                             [**2148-9-2**]  02:26 PM
                             [**2148-9-2**]  07:54 PM
                             [**2148-9-3**]  05:07 AM
                             [**2148-9-4**]  03:37 AM
                             [**2148-9-5**]  04:05 AM
                             [**2148-9-6**]  04:16 AM
                             [**2148-9-8**]  05:23 AM
                             [**2148-9-9**]  05:30 AM
   WBC
   6.4
   5.9
   6.8
   6.3
   9.5
   9.3
   9.7
   9.4
   Hct
   27.5
   27.7
   29.8
   29.8
   32.7
   31.3
   31.1
   30.3
   Plt
   170
   199
   227
   282
   333
   341
   305
   323
   Cr
   1.1
   1.0
   1.0
   1.0
   1.1
   1.1
   1.2
   1.1
   TCO2
   32
   33
   Glucose
   116
   96
   90
   81
   93
   78
   81
   96
   Other labs: PT / PTT / INR:14.5/34.6/1.3, ALT / AST:17/18, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:138/, Differential-Neuts:61.3 %,
   Lymph:14.7 %, Mono:6.8 %, Eos:17.1 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:180 IU/L, Ca++:9.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   87 yr old man with resp failure
   1.       Hypoxia/Tachypnea: improved after bronch and clean out. Y
   stent still in place. IP following. Continues on NAC nebs,
   Alb/Atrovent, chest PT
   2.       Dementia: underlying dementia exacerbated,  check TSH RPR B12,
   geriatrics consult
   3.       Sppech and Swallow- if fails, needs Dophoff replaced
   ICU Care
   Nutrition: specch and swallow, advance if possible
   Glycemic Control:
   Lines: Multi Lumen - [**2148-9-7**] 10:30 AM
 should be d/c after we get a
   PIV
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   Communication:  family would like a meeting tomm/wednesday
   Code status: Full code
   Disposition : call out
   Total time spent: 35